US06245773B1
To a solution of 4-methyl-4-phenyl piperidine (1.61 g, 9.2 mmol) in 100 mL dioxane was added 3-bromo-N-tert-butoxycarbonyl-propylamine (2.25 g, 9.4 mmol) and K2CO3 (3.48 g, 25.2 mmol) and the resulting suspension was heated to reflux for 10 h. The suspension was allowed to cool, filtered and the solvent was evaporated to obtain yellow residue which was purified by column chromatography (Rf=0.4, 3:1 EtOAc/MeOH) to obtain 3-[4-methyl-4-phenyl-piperidin-1-yl]-N-tert-butoxycarbonyl-propylamine as a yellow oil (2.85 g). It was dissolved in 35 mL of CH2Cl2 and 6.0 mL of trifluoroacetic acid was added with stirring at room temperature under argon atmosphere. After 1 h the solvent was evaporated in vacuo and the residue was basified to pH 10 by adding minimum amount of 1 N KOH solution. The product was extracted with CH2Cl2 (3×35 mL), dried over MgSO4, filtered and the solvent was removed in vacuo to obtain 3-[4-methyl-4-phenylpiperidin-1-yl]propylamine as a viscous yellow oil (1.54 g, 73% for two steps). It was used in the next step without further purification. This step “d” is a representative procedure for putting propylamino tether on any piperidine.

reactant | 4-methyl-4-phenyl piperidine | 9.2 mmol, 1.61 g | CC1(CCNCC1)C1=CC=CC=C1 | C12H17N
reactant | 3-bromo-N-tert-butoxycarbonyl-propylamine | 9.4 mmol, 2.25 g | BrCCCNC(=O)OC(C)(C)C | C8H16BrNO2
reactant | K2CO3 | 25.2 mmol, 3.48 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 3-[4-methyl-4-phenyl-piperidin-1-yl]-N-tert-butoxycarbonyl-propylamine | 2.85 g | CC1(CCN(CC1)CCCNC(=O)OC(C)(C)C)C1=CC=CC=C1 | C20H32N2O2
